US06703387B2
(8-chloro-1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester was prepared in an analogous fashion to (1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester, as described in Example 1 by replacing 2-fluorobenzoic acid with 4-chloro-2-fluorobenzoic acid.

reactant | (1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C=C1C2=C(N(CCN1)C)C=CC=C2 | C15H23N2O3P
reactant | 4-chloro-2-fluorobenzoic acid | ClC1=CC(=C(C(=O)O)C=C1)F | C7H4ClFO2
product | (8-chloro-1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C=C1C2=C(N(CCN1)C)C=C(C=C2)Cl | C15H22ClN2O3P
